### PR TITLE
fix definition of fin_num

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

It seems a bit more natural to define `fin_num` using `abse`.
This PR shows that this change impacts the proofs rather positively.
This is however a minor improvement.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -557,21 +557,21 @@ Section finNumPred.
...
 
-Lemma fin_numEn x : (x \isn't a fin_num) = (x == -oo) || (x == +oo).
-Proof. by rewrite fin_numE negb_and ?negbK. Qed.
+Lemma fin_numEn x : (x \isn't a fin_num) = (`| x | == +oo).
+Proof. by rewrite fin_numE negbK. Qed.
 
-Lemma fin_numPn x : reflect (x = -oo \/ x = +oo) (x \isn't a fin_num).
-Proof. by rewrite fin_numEn; apply: (iffP orP) => -[]/eqP; by [left|right]. Qed.
+Lemma fin_numPn x : reflect (`| x | = +oo) (x \isn't a fin_num).
+Proof. by rewrite fin_numEn; apply/(iffP idP) => /eqP. Qed.
```
Comment (CohenCyril) [inline theories/ereal.v:574]: I'd rather have a new battery of lemmas and keep the old names with their old meaning

Comment (affeldt-aist) [reply theories/ereal.v:574]: Then I'll close this PR very soon.
